US09447090B2
To a mixture of 1.25 g of ethyl 3-hydroxy-2-(hydroxymethyl)-2-(pyridin-3-yl)propanoate in 13 ml of acetone were added 0.75 ml of 2,2-dimethoxypropane and 105 mg of p-toluenesulfonic acid monohydrate, followed by stirring for 12 hours. Then, 1.06 g of p-toluenesulfonic acid monohydrate was added thereto, followed by stirring for 6 hours. Further, 0.75 ml of 2,2-dimethoxypropane was added thereto, followed by stirring at 50° C. for 30 minutes, and the solvent was evaporated under reduced pressure. To the obtained residue were added 13 ml of acetone and 0.78 ml of 2-methoxy-1-propene at room temperature, followed by stirring for 30 minutes. To the reaction mixture were added a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution, water, and saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.16 g of ethyl 2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxane-5-carboxylate.

reactant | ethyl 3-hydroxy-2-(hydroxymethyl)-2-(pyridin-3-yl)propanoate | 1.25 g | OCC(C(=O)OCC)(C=1C=NC=CC1)CO | C11H15NO4
reactant | 2,2-dimethoxypropane | 0.75 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 105 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 1.06 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,2-dimethoxypropane | 0.75 ml | COC(C)(C)OC | C5H12O2
solvent | acetone | 13 ml | CC(=O)C | C3H6O
product | ethyl 2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxane-5-carboxylate | 1.16 g | CC1(OCC(CO1)(C(=O)OCC)C=1C=NC=CC1)C | C14H19NO4
